US06310070B1
An amidation reaction was carried out under the same conditions as in Example 1 using 6.48 g (30 mmol) of 4-amino-1-benzyl-5-imidazole carboxamide obtained in Reference Example 2 and using, instead of benzoyl chloride, 4-methoxyphenylacetyl chloride which was separately prepared according to a conventional method. A crude amide product was obtained after the post-treatment. The crude amide was subjected to a cyclization reaction for 13 hours under the same conditions as in Example 1. 1.92 g of 7-benzyl-2-(4-methoxybenzyl)hypoxanthine was obtained after the post-treatment. Yield 18% (2 steps).

reactant | 4-amino-1-benzyl-5-imidazole carboxamide | 30 mmol, 6.48 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-methoxyphenylacetyl chloride | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
product | 7-benzyl-2-(4-methoxybenzyl)hypoxanthine | 1.92 g, Yield 18% | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)CC1=CC=C(C=C1)OC | C20H18N4O2
